US08563575B2
To a solution of 4,5,6,7-tetrahydro-1H-benzimidazole-2-thiol (500 mg) in acetone (5 mL) were added K2CO3 (1344 mg) and MeI (0.223 mL) at room temperature. After stirring for 1 h, the mixture was quenched with water, and extracted with ethyl acetate, and the extract was washed with brine and dried over magnesium sulfate. The residue was purified by column chromatography (silica gel, eluted with 40%-90% EtOAc in hexane) to give 2-(methylsulfanyl)-4,5,6,7-tetrahydro-1H-benzimidazole (545 mg) as a white solid.

reactant | 4,5,6,7-tetrahydro-1H-benzimidazole-2-thiol | 500 mg | N1C(=NC2=C1CCCC2)S | C7H10N2S
reactant | K2CO3 | 1344 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.223 mL | CI | CH3I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(methylsulfanyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 545 mg | CSC1=NC2=C(N1)CCCC2 | C8H12N2S
